US07642264B2
4-(3,4-Difluoro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(3,4-difluoro-phenyl)-6-trifluoromethyl-pyrimidine (example A.46) (1.50 g, 5.1 mmol) and commercially available 4-iodo-imidazole (1.48 g, 7.63 mmol) according to the general procedure IVa. Obtained as a light red solid (2.23 g, 97%). MS (ISP) 452.9 [(M+H)+]; mp 206° C.

reactant | 2-chloro-4-(3,4-difluoro-phenyl)-6-trifluoromethyl-pyrimidine | 5.1 mmol, 1.50 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)F)F)C(F)(F)F | C11H4ClF5N2
reactant | 4-iodo-imidazole | 7.63 mmol, 1.48 g | IC=1N=CNC1 | C3H3IN2
product | 4-(3,4-Difluoro-phenyl)-2-(4-iodo-imidazol-1-yl)-6-trifluoromethyl-pyrimidine | FC=1C=C(C=CC1F)C1=NC(=NC(=C1)C(F)(F)F)N1C=NC(=C1)I | C14H6F5IN4
